US08809377B2
1-(4-(Methoxymethoxy)phenyl)butan-1-one oxime (3)
Hydroxylamine hydrochloride (2.7 g, 39.4 mmol) was added to a stirred solution of 1-(4-(methoxymethoxy)-phenyl)butan-1-one (4.1 g, 19.7 mmol) and pyridine (94.67 g, 59.1 mmol) in ethanol (30 mL), and the mixture heated to reflux for 1.5 hours then allowed to cool. Most of the ethanol was removed by concentration under reduced pressure, and the residue was partitioned between water and dichloromethane. The layers were separated and the aq phase extracted 2× with dichloromethane. The combined extracts were washed twice with water, then with saturated brine and dried over magnesium sulfate. The solvent was removed in vacuo, leaving 5.1 g of slightly cloudy, colorless syrup, which was flash chromatographed on a column (50×70 mm) of silica gel eluting with Hxa/EtOAc/acetone 8:1:1 to afford 3.4 g (77%) of snow-white crystalline solid; mp 74-76° C.

reactant | Hydroxylamine hydrochloride | 39.4 mmol, 2.7 g | Cl.NO
reactant | 1-(4-(methoxymethoxy)-phenyl)butan-1-one | 19.7 mmol, 4.1 g | COCOC1=CC=C(C=C1)C(CCC)=O | C12H16O3
reactant | pyridine | 59.1 mmol, 94.67 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(4-(Methoxymethoxy)phenyl)butan-1-one oxime | 3.4 g, 77% | COCOC1=CC=C(C=C1)C(CCC)=NO | C12H17NO3
